US07223888B2
All four stereoisomers of 3 were synthesized according to the following procedure: To a stirred solution of Boc-D-Tyr(tBu)-OMe (2.2 g, 6.3 mmole) in toluene/THF (1:1, 20 mL) at −78° C. under N2 was added DIBAL-H (1.5 M in toluene, 10.4 mL, 15.7 mmole) dropwise over 30 minutes. The reaction was stirred for 30 minutes, then quenched by the slow addition of MeOH (1.3 mL, 31.5 mmole) and warmed to room temperature. Rochelle's salt (9 g, 31.5 mmole) in water (50 mL) was added, and the mixture was stirred for 1 hour, then filtered and extracted with ether (50 mL). The ether extract was dried over MgSO4, filtered, and concentrated under vacuum to give Boc-D-Tyr(tBu)-H.

reactant | Boc-D-Tyr(tBu)-OMe | 6.3 mmole, 2.2 g | N([C@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC)C(=O)OC(C)(C)C | C19H29NO5
reactant | DIBAL-H | 15.7 mmole, 1.5 M, 10.4 mL | CC(C)C[AlH]CC(C)C
reactant | MeOH | 31.5 mmole, 1.3 mL | CO | CH4O
reactant | Rochelle's salt | 31.5 mmole, 9 g | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | toluene THF | 20 mL | C1(=CC=CC=C1)C.C1CCOC1
solvent | water | 50 mL | O | H2O
product | Boc-D-Tyr(tBu)-H | N([C@H](CC1=CC=C(C=C1)OC(C)(C)C)C=O)C(=O)OC(C)(C)C | C18H27NO4
